US07923555B2
N-[(3-chloropyrazin-2-yl)methyl]-3-methylenecyclobutanecarboxamide
1,1′-Carbonyldiimidazole (CDI) (8.24 g, 50.81 mmol) and 3-methylenecyclobutanecarboxylic acid (5.70 g, 50.81 mmol) were dissolved in anhydrous THF (100 mL) and allowed to stir at 60° C. for 4 h. A solution of C-(3-Chloropyrazin-2-yl)methylamine bis-hydrochloride (10.0 g, 46.19 mmol) and diisopropylethylamine DIPEA) (32.30 mL, 184.76 mmol) in anhydrous CH2Cl2 (150 mL) was added to the mixture and the reaction was allowed to stir at rt for 24 h. The mixture was concentrated in vacuo, the residue dissolved in EtOAc and the resulting solution washed with saturated NaHCO3 (aq.) water H2O and Brine. The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to afford crude product, which was purified by chromatography over silica gel eluting with 50-70% EtOAc/hexane to yield desired product. 1H NMR (400 MHz, CDCl3) δ ppm 2.92-2.94 (2H, m), 3.05-3.14 (2H, m), 4.60 (2H, d, J=4.24 Hz), 4.80-4.84 (2H, m), 6.75 (1H, brs), 8.33 (1H, d, J=4.22 Hz) and 8.45 (1H, d, J=2.54 Hz). MS (ES+): m/z 238 and 240 [MH+].

reactant | 1,1′-Carbonyldiimidazole | 50.81 mmol, 8.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-methylenecyclobutanecarboxylic acid | 50.81 mmol, 5.70 g | C=C1CC(C1)C(=O)O | C6H8O2
reactant | C-(3-Chloropyrazin-2-yl)methylamine bis-hydrochloride | 46.19 mmol, 10.0 g | Cl.Cl.ClC=1C(=NC=CN1)CN
reactant | diisopropylethylamine DIPEA | C(C)(C)N(CC)C(C)C.CCN(C(C)C)C(C)C | 2C8H19N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | N-[(3-chloropyrazin-2-yl)methyl]-3-methylenecyclobutanecarboxamide | ClC=1C(=NC=CN1)CNC(=O)C1CC(C1)=C | C11H12ClN3O
